US09382221B2
3,7-Dibromo-1,9-dichloro-10H-phenothiazine (17)
The 3,7-dibromophenothiazine (6.25 g, 17.5 mmol) was dissolved in 200 mL of chloroform (CHCl3). Sulfuryl chloride (SO2Cl2, 3.13 mL, 38.5 mmol) was added dropwise over 15 min. The dark mixture was stirred at RT for 36 h. The mixture was then filtered and the solid washed with CHCl3. The solid was collected and stirred in Et2O and the resulting green solid was filtered off and dried under vacuum to give a quantitative yield of the desired product.

reactant | 3,7-dibromophenothiazine | 17.5 mmol, 6.25 g | BrC=1C=CC=2NC3=CC=C(C=C3SC2C1)Br | C12H7Br2NS
reactant | Sulfuryl chloride | 38.5 mmol, 3.13 mL | S(=O)(=O)(Cl)Cl | Cl2O2S
reactant | chloroform | 200 mL | C(Cl)(Cl)Cl | CHCl3
product | 3,7-Dibromo-1,9-dichloro-10H-phenothiazine | quantitative yield | BrC=1C=C(C=2NC3=C(C=C(C=C3SC2C1)Br)Cl)Cl | C12H5Br2Cl2NS
